US06740662B1
A THF solution of diisopropylamine was treated with 1.6M butyl]ithium/hexane solution. Thereafter, 2,6-dichloropyridine was added dropwise thereto together with THF and reacted, and then 3-chlorobenzaldehyde was further added dropwise. The reaction mixture was worked up and purified in a usual manner and the resulting compound was reacted with manganese dioxide in toluene under heating. The reaction mixture was worked up and purified in a usual manner to obtain 3-(3-chlorobenzoyl)-2,6-dichloropyridine. MS: 286.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-dichloropyridine | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(3-chlorobenzoyl)-2,6-dichloropyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)Cl)Cl)C=CC1 | C12H6Cl3NO
